US05399360
2.75 kg of ketotifen hydrogen fumarate is mixed with 8.55 kg lactose for 5 minutes. The mass is sieved (vibration sieve; mesh width 500; hole size 250 microns). Separately 15 kg lactose and 2.5 kg corn starch are sieved and mixed (vibration sieve; hole size 1600 microns, wire diameter 630 microns). Glyceryl ditripalmitostearate is sieved (mesh width 1600, hole size 630 microns) and 41.2 kg thereof is mixed with two previously sieved masses, forming ketotifen fat granulate over ca. 30 minutes to ca. 50° C. The fat granulate is cooled to about 20° to 30° C. The mass is broken up using a sieve (hole size 1.5 mm). Total weight (two batches) 140 kg.

reactant | ketotifen hydrogen fumarate | 2.75 kg | CN1CCC(=C2C3=C(C(=O)CC4=CC=CC=C42)SC=C3)CC1.C(=C/C(=O)O)\C(=O)O
reactant | lactose | 8.55 kg | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
product | ketotifen | CN1CCC(=C2C=3C=CC=CC3CC(=O)C4=C2C=CS4)CC1 | C19H19NOS
